US06664256B1
Preparation of 3,4-bis(4-methoxyphenyl)-6-(3-hydroxypropyl)pyridazine
To a solution of 6-allyl-3,4-bis(4-methoxyphenyl)pyridazine (0.58 g, 1.7 mmol) in tetrahydrofuran (3 ml), a 0.5 M solution (8.7 ml) of 9-borabicyclo[3.3.1]nonane in tetrahydrofuran was added dropwise under an argon gas atmosphere while cooling the reaction system with ice-water. The resulting mixture was then stirred at room temperature for 15 hours. To the reaction mixture, water (1 ml) and then, 3 N caustic soda (3 ml) and 31% hydrogen peroxide (3 ml) were added under ice cooling, followed by stirring at room temperature for 2 hours. The reaction mixture was extracted with ethyl acetate, the organic layer was washed successively with water, a saturated aqueous solution of sodium hydrogencarbonate and water, and was then dried over anhydrous sodium sulfate. The extract was concentrated under reduced pressure and the resulting mixture was left over at room temperature for 3 days. The residue was separated and purified by chromatography on a silica gel column (ethyl acetate), whereby the title compound was obtained as a pale brown oil (0.54 g, 88.3%).

reactant | 6-allyl-3,4-bis(4-methoxyphenyl)pyridazine | 1.7 mmol, 0.58 g | C(C=C)C1=CC(=C(N=N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C21H20N2O2
reactant | 9-borabicyclo[3.3.1]nonane | C12CCCC(CCC1)B2 | C8H15B
reactant | caustic soda | 3 N, 3 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 3 ml | OO | H2O2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | water | 1 ml | O | H2O
product | 3,4-bis(4-methoxyphenyl)-6-(3-hydroxypropyl)pyridazine | 0.54 g, 88.3% | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)CCCO | C21H22N2O3
